US05608056
To a solution of (2R,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-(3-hydroxypropyl)pyrrolidine (17.1 g) in dichloromethane (170 ml) were added successively triethylamine (10.4 ml) and methanesulfonyl chloride (4.63 ml) under an ice-bath. The mixture was stirred at 0° C. for 1.5 hours and quenched by the addition of water (85 ml). The aqueous layer was separated and extracted with dichloromethane (50 ml×2). The organic layers were combined and washed with 1N hydrochloric acid (85 ml), brine (85 ml) and dried over magnesium sulfate. Evaporation of the solvent gave (2R,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-(3-methanesulfonyloxypropyl)pyrrolidine (21.2 g) as a yellow paste.

reactant | (2R,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-(3-hydroxypropyl)pyrrolidine | 17.1 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCCO | C17H33NO4Si
reactant | triethylamine | 10.4 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.63 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 170 ml | ClCCl | CH2Cl2
product | (2R,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-(3-methanesulfonyloxypropyl)pyrrolidine | 21.2 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCCOS(=O)(=O)C | C18H35NO6SSi
